US07968723B2
{4-[2,6-Bis-(4-hydroxymethyl-phenylethynyl)-pyridin-4-ylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester (150 mg; 0.27 mmol) was dissolved in a mixture of THF and ethanol (1:1) (10 ml) and 1N sodium hydroxide (1.5 ml) was added. The reaction mixture was stirred for about 1 h and 1N aqueous hydrogen chloride (3 ml), water (10 ml) and ethyl acetate (20 ml) was added. The organic phase was separated from the aqueous phase and the aqueous phase was extracted with ethyl acetate (10 ml). The pooled organic phases were washed with water (10 ml), dried and evaporated. During the evaporation a solid was formed which was filtered off and dried to give {4-[2,6-bis-(4-hydroxymethyl-phenylethynyl)-pyridin-4-ylsulfanyl]-2-methyl-phenoxy}-acetic acid. Yield: 51 mg.

reactant | {4-[2,6-Bis-(4-hydroxymethyl-phenylethynyl)-pyridin-4-ylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester | 0.27 mmol, 150 mg | COC(COC1=C(C=C(C=C1)SC1=CC(=NC(=C1)C#CC1=CC=C(C=C1)CO)C#CC1=CC=C(C=C1)CO)C)=O | C33H27NO5S
reactant | hydrogen chloride | 1N, 3 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
product | {4-[2,6-bis-(4-hydroxymethyl-phenylethynyl)-pyridin-4-ylsulfanyl]-2-methyl-phenoxy}-acetic acid | OCC1=CC=C(C=C1)C#CC1=NC(=CC(=C1)SC1=CC(=C(OCC(=O)O)C=C1)C)C#CC1=CC=C(C=C1)CO | C32H25NO5S
